US08530670B2
Ethyl 1-(1H-benzo[d]imidazol-5-yl)-2,4-dioxo-5-phenylpyrrolidine-3-carboxylate
The compound was synthesized starting from ethyl 2-[(1H-benzo[d]imidazol-5-yl)[phenyl({2-[(methoxycarbonyl)oxy]-2-methylpropyl}carbamoyl)methyl]-carbamoyl]-acetate (which may be prepared in accordance with the procedure described for Intermediate 1; 0.3 g, 0.588 mmol) and potassium tert.-butoxide solution (1M, 1.18 ml, 1.176 mmol) according to the method described in step 2.

reactant | ethyl 2-[(1H-benzo[d]imidazol-5-yl)[phenyl({2-[(methoxycarbonyl)oxy]-2-methylpropyl}carbamoyl)methyl]-carbamoyl]-acetate | N1C=NC2=C1C=CC(=C2)N(C(=O)CC(=O)OCC)C(C(NCC(C)(C)OC(=O)OC)=O)C2=CC=CC=C2 | C26H30N4O7
reactant | potassium tert.-butoxide | 1.176 mmol, 1M, 1.18 ml | CC(C)([O-])C.[K+]
product | Ethyl 1-(1H-benzo[d]imidazol-5-yl)-2,4-dioxo-5-phenylpyrrolidine-3-carboxylate | N1C=NC2=C1C=CC(=C2)N2C(C(C(C2C2=CC=CC=C2)=O)C(=O)OCC)=O | C20H17N3O4
